US04140696
4-Acetyl-3-amino-2-(p-fluorophenyl)-5-methylpyrrole
Starting from 2-amino-2-(p-fluorophenyl)acetonitrile and acetylacetone, the open-chain intermediate compound is obtained; b.p. 150° C./0.3 mm Hg. Overall yield of the title compound: 47%, m.p. 211°-12° C. (from ethanol).

reactant | 2-amino-2-(p-fluorophenyl)acetonitrile | NC(C#N)C1=CC=C(C=C1)F | C8H7FN2
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
product | 4-Acetyl-3-amino-2-(p-fluorophenyl)-5-methylpyrrole | C(C)(=O)C=1C(=C(NC1C)C1=CC=C(C=C1)F)N | C13H13FN2O
